US06265426B1
2-Fluorobenzamidine hydrochloride salt (1:1)
To a solution of lithium-bis(trimethylsilyl)amide (10 g, 59.8 mmol) in ether (200 ml) in a flame-dried flask, was added 2-fluorobenzonitrile (7.26 g, 59.8 mmol) dropwise over 45 min. at r.t. The mixture was stirred for a further 4 h. at r.t. then cooled to −10° C. and 6N HCl in ethanol (40 ml) added dropwise over 30 min. (exothermic). After allowing the reaction mixture to warm to r.t. overnight the precipitate was filtered and washed with ether then dried under high vacuum at 40° C. overnight. To remove LiCl the dried solid was re-suspended in ethanol (200 ml) and filtered, then the volume reduce volume to ca. 30 ml. The solution was filtered then triturated with ether, and stirred 30 min. at 4° C. Filtration of the precipitate, washing with ether and high vacuum drying overnight at 40° C., afforded the title compound (7.8 g, 44.7 mmol, 75% yield) as a white solid. MS: m/e=138 (M+).

reactant | lithium bis(trimethylsilyl)amide | 59.8 mmol, 10 g | [Li].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-fluorobenzonitrile | 59.8 mmol, 7.26 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | HCl | 6N | Cl | ClH
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-Fluorobenzamidine hydrochloride salt | 44.7 mmol, 7.8 g, 75% yield | Cl.FC1=C(C(=N)N)C=CC=C1 | InChI=1S/C7H7FN2.ClH/c8-6-4-2-1-3-5(6)7(9)10;/h1-4H,(H3,9,10);1H
